Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
Dizziness, diplopia, gait instability.
 
Major Surgical or Invasive Procedure:
___ Stereotactic brain biopsy
___ R frontal EVD 
 
History of Present Illness:
Mr. ___ is a ___ man with a history of HIV on HAART, 
CAD s/p BMS in ___, and recently found brainstem mass who 
presented to clinic with worsening dizziness, diplopia, gait 
instability, admitted to the inpatient service due to the acute 
rapid progression of his symptoms. He was in his usual state of 
health until 3 weeks ago when he began having dizziness and
imbalance. His symptoms worsened 1 week ago with diplopia, gait 
instability, and a posterior headache. He was recently seen at 
___, where brain imaging found a 2cm 
brainstem mass right of the fourth ventricle.

His cardiac history is significant for an inferior ST elevation 
MI in ___, for which he had got a BMS the large 
obtuse marginal branch.  At that time, he was also noted to have 
a chronically occluded LAD collateralized from the right 
coronary artery.  An exercise stress test in ___ 
showed
a fixed moderate myocardial perfusion defect in the anteroapical 
wall with no evidence of reversible ischemia and echocardiogram 
showed an EF of 55% with severe apical hypokinesis.  His HIV is 
well-controlled on Truvada and Kaletra with an undetectable VL.
 
Past Medical History:
CAD s/p BMS (___)
HIV on HAART (VL undetectable)
h/o pancreatitis ___ HIV medication
HTN
HLD
Gastric ulcer
 
Social History:
___
Family History:
It is notable for father and brother with prostate cancer, 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
___: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: Supple.
Extremities: Warm and well-perfused.

Neurological Examination:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 4
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements full with nystagmus in all
directions.  Double vision worsens in left lateral gaze.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally.  Slightly Tremulous.
Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Coordination: normal on finger-nose-finger, rapid alternating
movements

UPON DISCHARGE:
Vital Signs: Temperature 98.0 F, Blood Pressure 114/68, Heart 
Rate 75, Respiratory Rate 16, and O2 saturation 97% in room air
___: well-appearing, NAD
HEENT: with suture site healing without signs of infection.
Cardiovascular: regular rate and rhythm. No murmurs. 
Respiration: CTAB, no wheezes.  
Abdomen: soft, NT, ND, no HSM. 
Extremities: no edema
Neurological Examination: His mental status is intact. CN II-XII 
intact, sensation/strength intact in all extremities.
 
Pertinent Results:
___ CTA ___
Fourth ventricle mass, better characterized on the subsequent 
MRI exam, but without significant vascularity of the mass.  No 
evidence for aneurysm or arteriovenous malformation.   

___ MR ___ w/without contrast
Relatively well-circumscribed slightly T2 hypointense fourth 
ventricular mass extending out to the foramen of Luschka.  
Differential would include ependymoma, choroid plexus papilloma, 
meningioma, lymphoma or oligodendroglioma. 

___ CT torso
1.  No evidence of primary malignancy within the chest.  No 
evidence of 
metastatic disease.
2.  Multiple low attenuation nodules throughout the thyroid 
gland.  Further assessment with thyroid ultrasound is 
recommended.   

___ CT ab/pelvis
1.  No evidence of primary malignancy or metastatic disease 
below the 
diaphragm.
2.  Two enhancing lesions within the liver that appear 
consistent with 
cavernous hemangiomas and are unchanged since ___.  

___ EKG
Normal sinus rhythm. Right bundle-branch block. Q waves in lead 
V2 consistent with possible prior anteroseptal myocardial 
infarction. No previous tracing available for comparison.  

___ MR ___ with contrast
___ well-circumscribed avid enhancing lesion in the area 
of 
the fourth ventricle on the right, with no evidence of 
hydrocephalus or new lesions.  The differential diagnosis is 
broad and includes ependymoma, meningioma, choroid plexus 
papilloma and the remote possibility of metastatic lesion cannot 
be completely ruled out. 

___ ___
Expected postoperative changes after right occipital approach 
stereotactic biopsy of a right fourth ventricular mass.  No 
significant mass effect.  No acute large territorial infarction. 


___ ___
1.  Interval placement of an external ventricular drain 
terminating in the ___ ventricle via a right frontal approach.  
Associated mild decrease in ventricle size.    
2.  Status post right occipital craniotomy and biopsy of a 
fourth ventricle lesion. Expected post procedural changes 
including pneumocephalus.  No complications including large 
hemorrhage noted. 

___ ___
IMPRESSION:
1. Slight increase in size of the ventricles compared to the 
prior study. 
Unchanged appearance of external ventricular drain terminating 
in the ___
ventricle via a right frontal approach.   
2.  Increased pneumocephalus in the anterior horn of the right 
lateral
ventricle.   
3.  Unchanged appearance of small subarachnoid hemorrhage along 
the course of the drain.   
ATTENDING NOTE: There is little change in ventricular size.  

___ MR spine
IMPRESSION:
No evidence of metastatic disease within the spine.  
There is a T2 hyperintense enhancing left retroperitoneal lesion 
measuring 15 x 16mm that may represent a fatty lymphnode of 
unknown significance.  Enlarged thyroid gland with multiple 
masses. Recommend followup thyroid ultrasound for further 
evaluation.  Bilateral L5 spondylolysis with grade 1 
anterolisthesis of L5 on S1. 

___
TTE
Conclusions:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
focal hypokinesis of the distal septum and mild dyskinesis of 
the apex. The remaining segments contract normally (LVEF = 50 
%). The estimated cardiac index is normal (>=2.5L/min/m2). No 
masses or thrombi are seen in the left ventricle. Transmitral 
and tissue Doppler imaging suggests normal diastolic function, 
and a normal left ventricular filling pressure (PCWP<12mmHg). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 
IMPRESSION: Normal left ventricular cavity size with mild 
regional systolic dysfunction c/w CAD (distal LAD distribution). 

 
Brief Hospital Course:
___: Mr ___ is a ___ year old male who presented with 
dizziness, diplopia, gait instability, found to have 2cm right 
brainstem tumor and admitted to the Neurosurgical Service. Neuro 
onc / rad onc were consulted.  

___: CTA ___ with and without contrast was obtained and 
revealed no vascular abnormality.  An MRI of ___ revealed a 
right fourth ventricular mass.  Cardiology was consulted and 
determined patient is low risk for surgery, and recommended 
restarting ASA when able.  ID was consulted and recommneding 
contining current HIV regimen. 

___: CT abdomen/pelvis & CT chest and revealed no 
metastatic disease indicating tumor is likely a primary brain 
tumor. 

___: Meeting was held with Mr. ___, his family and an 
interpreter. The option for doing a brain biopsy here at ___ 
despite the patient being a non US resident with no insurance 
(and thus no benefits for post operative care) and the risks 
associated with surgery. Patient is scheduled to go to the OR 
tomorrow. Patient has elected to discuss his options with his 
family and let us know his final decision. 

___: The patient remained stable. His operative case was 
cancelled and rescheduled for tomorrow.

___: The patient went to the OR for a biopsy of his brain 
stem lesion.  A post operative scan showed an effaced fourth 
ventricle. The patient went back to the operating room for a 
placement of an external ventricular drain. He was extubated in 
the operating room and taken to the pacu for recovery. 

___:
The patient's urine culture came back positive for gram negative 
rods.  The patient remained on Vancomycin and Gentomycin. He had 
a repeat HCT which was stable and his EVD was raised to 25 above 
the tragus. The frozen pathology from the operating room showed 
high grade lymphoma and the patient was started on 
dexamethasone.  Cultures and cytology of his csf were sent off 
for analysis. 

On ___, the patient remained stable and his EVD output was 
minimal, his EVD was clamped at 1000 without issue. A CT ___ 
and CT spine were ordered for the next day.

On ___, ___ CT showed no enlargement of ventricles after 
clamping trial and EVD was removed. MRI of the c/t/l were 
completed and showed no evidence of drop mets. 

On ___, patient will have chemotherapy and was transferred 
to neuro-oncology. A cardiac echo and a 24 hr urine were ordered 
in preparation for chemotherapy. A repeat u/a was sent to 
re-evaluate for E. coli.

On ___, Repeat U/A found to be positive for infection. 
Patient was started on Augmentin per curbside rec of ID. Urine 
culture still pending. Echo results from yesterday consistent 
with coronary artery disease. Patient is to be transfer to 
Neuro-onc.  Pt received HD MTX that night.

___ to ___, MTX levels were monitored daily.  Pt was 
given Leucovorin and Na bicarb.  On day of discharge, MTX level 
was 0.04.  Pt was maintained on Dexamethasone, was weaned to 4mg 
BID on day of discharge. Pt did have asymptomatic bacteruria 
(urine cx showed E coli) and completed 4 days of Augmentin. For 
his HIV, pt was continued on home Lopinavir-Ritonavir and 
Truvada.  Pt will need follow up for the high grade squamous 
intraepithelial lesion (AIN II) as well as the thyroid nodule 
noted. Pt was continued on home antihypertensives, however, his 
aspirin was held in setting of
brain lesion.

Patient was full code. Patient was on heparin SC for DVT ppx.
 
Medications on Admission:
1.  Emtricitabine-tenofovir (Truvada) daily
2.  Lisinopril 5 mg daily
3.  Metoprolol succinate 25 mg daily
4.  Omeprazole 40 mg daily
5.  Pravastatin 40 mg daily
6.  Lopinavir-ritonavir (Kaletra) twice daily
7.  Aspirin 81 mg daily
8.  Fish oil daily
 
Discharge Medications:
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Lopinavir-Ritonavir 2 TAB PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Pravastatin 40 mg PO DAILY 
7. Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 2 mg 2 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
8. Aspirin 81 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brainstem Tumor
Cerebral edema
HIV
UTI
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted vision problems and gait imbalance.  You were 
found to have a brain tumor.  You underwent surgery and then had 
chemotherapy.  Your symptoms are now improving.  You also had a 
urinary tract infection which was treated with antibiotics.  You 
were then discharged home.  

You will return to the hospital on ___ for the next cycle 
of chemotherapy.

Have a friend/family member check your incision daily for 
signs of infection.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. 
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc.  
If you are being sent home on steroid medication, make sure 
you are taking a medication to protect your stomach (Prilosec, 
Protonix, or Pepcid), as these medications can cause stomach 
irritation.  Make sure to take your steroid medication with 
meals, or a glass of milk. 
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Make sure to continue to use your incentive spirometer while 
at home.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING
New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: increasing redness, 
increased swelling, increased tenderness, or drainage.
Fever greater than or equal to 101.5 F.
 
Followup Instructions:
___